US03979427
The procedure of Example 14 is repeated using 12.3 parts of nitrosobenzene, 80 parts of benzene, 5 parts of rhodium on carbon and 0.75 part of aluminum chloride. After carbon monoxide is introduced to a pressure of 3,000 p.s.i., the pressure vessel is heated at 190°C. for 5 hours. Phenyl isocyanate is obtained.

reactant | nitrosobenzene | N(=O)C1=CC=CC=C1 | C6H5NO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | carbon monoxide | [C]=O | CO
reactant | benzene | C1=CC=CC=C1 | C6H6
catalyst | rhodium on carbon | [Rh] | Rh
product | Phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
